US07118787B2
2-(4-Dodecyloxyphenyl)-6-(4-nonylphenyl)benzothiazole:
A mixture of tetrakis(triphenylphosphine)palladium(0) (0.30 g, 0.26×10−3 mol), 6-bromo-2-(4-dodecyloxyphenyl)benzothiazole (2.50 g, 5.27×10−3 mol), 4-nonylbenzene boronic acid (1.57 g, 6.33×10−3 mol), 2M sodium carbonate solution (25 cm3) and 1,2-dimethoxyethane (100 cm3). The reaction mixture was heated under reflux overnight. The cooled reaction mixture was extracted with dichloromethane (2×100 cm3) and the combined organic layers were washed with brine (2×100 cm3) and dried (MgSO4). After filtration the solvent was removed under reduced pressure and the residue was purified by column chromatography [silica gel, dichloromethane: hexane 1:1] followed by recrystallisation from ethanol to yield 2.35 g (74.5%) of the desired product.

reactant | 6-bromo-2-(4-dodecyloxyphenyl)benzothiazole | 5.27×10−3 mol, 2.50 g | BrC1=CC2=C(N=C(S2)C2=CC=C(C=C2)OCCCCCCCCCCCC)C=C1 | C25H32BrNOS
reactant | 4-nonylbenzene boronic acid | 6.33×10−3 mol, 1.57 g | C(CCCCCCCC)C1=CC=C(C=C1)B(O)O | C15H25BO2
reactant | sodium carbonate | 2M, 25 cm3 | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.26×10−3 mol, 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 100 cm3 | COCCOC | C4H10O2
product | 2-(4-Dodecyloxyphenyl)-6-(4-nonylphenyl)benzothiazole | 2.35 g, 74.5% | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2=CC=C(C=C2)CCCCCCCCC | C40H55NOS
